US06172065B2
6-Methyl-5-methylaminomethyl-7-nitro-1,2,3,4-tetrahydro-2,3-dioxo-quinoxaline Hydrochloride
To a solution of 6-methyl-5-methylaminomethyl-7-nitro-2,3-dimethoxy-quinoxaline (0.028 g, 0.095 mmol) in dioxane (1 mL) was added aqueous HCl (1 mL). The reaction was heated to reflux for 4 hours, cooled, and filtered. The pale yellow solid was filtered and washed with methanol.

reactant | 6-methyl-5-methylaminomethyl-7-nitro-2,3-dimethoxy-quinoxaline | 0.095 mmol, 0.028 g | CC=1C(=C2N=C(C(=NC2=CC1[N+](=O)[O-])OC)OC)CNC | C13H16N4O4
reactant | HCl | 1 mL | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 6-Methyl-5-methylaminomethyl-7-nitro-1,2,3,4-tetrahydro-2,3-dioxo-quinoxaline Hydrochloride | Cl.CC=1C(=C2NC(C(NC2=CC1[N+](=O)[O-])=O)=O)CNC | InChI=1S/C11H12N4O4.ClH/c1-5-6(4-12-2)9-7(3-8(5)15(18)19)13-10(16)11(17)14-9;/h3,12H,4H2,1-2H3,(H,13,16)(H,14,17);1H
